US08802697B2
Synthesis of tert-butyl(2-((5-chloro-4-(piperazin-1-yl)pyrimidin-2-yl)amino)phenyl)carbamate
To a solution of tert-butyl 4-(2,5-dichloropyrimidin-4-yl)piperazine-1-carboxylate (0.1 g, 0.3 mmol) in DCM (1.0 mL) was added TFA (1.0 mL) and the mixture was stirred for 1 h. An aliquot of the reaction mixture was analyzed by LCMS, which indicated that the reaction had proceeded to completion. The solvents were removed and the residue was dried on high vacuum. The crude product was used for the next step without further purification. To a solution of 2,5-dichloro-4-(piperazin-1-yl)pyrimidine (0.3 mmol) in Dioxane (4.0 mL) was added TFA (0.060 mL, 0.75 mmol) and tert-butyl(2-aminophenyl)carbamate (0.094 g, 0.45 mmol) and the mixture was stirred at 100° C. for 24 h. reaction. After cooling to room temperature the reaction mixture was diluted with EtOAc and washed with aqueous saturated sodium bicarbonate solution. The organic mixture was dried over sodium sulfate and loaded onto silica gel and purified using 0-10% MeOH/DCM gradient containing 10% NH4OH to give the title compound (28 mg, 23%) as a white solid. MS (ES+) C19H25ClN6O2 requires: 404. found: 405 [M+H]+

reactant | tert-butyl 4-(2,5-dichloropyrimidin-4-yl)piperazine-1-carboxylate | 0.3 mmol, 0.1 g | ClC1=NC=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)Cl | C13H18Cl2N4O2
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 2,5-dichloro-4-(piperazin-1-yl)pyrimidine | 0.3 mmol | ClC1=NC=C(C(=N1)N1CCNCC1)Cl | C8H10Cl2N4
reactant | TFA | 0.75 mmol, 0.060 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl(2-aminophenyl)carbamate | 0.45 mmol, 0.094 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)N)=O | C11H16N2O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
solvent | Dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(2-((5-chloro-4-(piperazin-1-yl)pyrimidin-2-yl)amino)phenyl)carbamate | 28 mg, 23% | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC1=NC=C(C(=N1)N1CCNCC1)Cl)=O | C19H25ClN6O2
